US05998433
b) Synthesis of (E)-N,N-dimethyl-[5-(2,3-diphenylpropenoyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine hydrochloride
(E)-N,N-Dimethyl-[5-(2,3-diphenylpropenoyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine 0.241 g was dissolved in 2 ml of methanol; hydrogen chloride in ethyl acetate was added in excess, followed by stirring. This mixture was concentrated and washed with diethyl ether to yield the desired product.

reactant | (E)-N,N-Dimethyl-[5-(2,3-diphenylpropenoyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine | 0.241 g | CN(C)CC1=CC=2CN(CCC2O1)C(\C(=C\C1=CC=CC=C1)\C1=CC=CC=C1)=O | C25H26N2O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-N,N-dimethyl-[5-(2,3-diphenylpropenoyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC=2CN(CCC2O1)C(\C(=C\C1=CC=CC=C1)\C1=CC=CC=C1)=O | InChI=1S/C25H26N2O2.ClH/c1-26(2)18-22-16-21-17-27(14-13-24(21)29-22)25(28)23(20-11-7-4-8-12-20)15-19-9-5-3-6-10-19;/h3-12,15-16H,13-14,17-18H2,1-2H3;1H/b23-15+;
